US07906517B2
Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (614 mg) is dissolved in toluene (6.5 ml), and thereto are added tris(dibenzylideneacetone)dipalladium(0) (87 mg), 2-(di-tert-butylphosphino)biphenyl (114 mg), morpholine (166 μl) and sodium tert-butoxide (183 mg) and the mixture is stirred under nitrogen flow at 60° C. for 2 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (476 mg). MS (m/z): 652 [M+H]+

reactant | Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 614 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C24H18BrF9N4O2
reactant | 2-(di-tert-butylphosphino)biphenyl | 114 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | morpholine | 166 μl | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 183 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 6.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 87 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 476 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C28H26F9N5O3
